US06627755B1
A mixture of 3-(2-chloro-phenyl)-6-fluoro-2-methyl-3,4-dihydro-quinazolin-4-one (1.0 g, 3.46 mmol) and dimethylformamide dimethyl acetal (0.92 mL, 6.92 mmol) in dimethylformamide (4 mL) was heated to 140° C. for 24 hours. The reaction was cooled to ambient temperature and concentrated at reduced pressure. The dark residue was triturated with methanol and the bright yellow crystalline solid which formed was collected and dried to give 1.075 g (90%) of 3-(2-chloro-phenyl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one which had: mp 210-211° C.; 1H NMR δ 7.86 (d, J=12.3 Hz, 1H), 7.79 (dd, J=3, 8.5 Hz, 1H), 7.61-7.54 (m, 1H), 7.51-7.29 (m, 5H), 4.06 (d, J=12.3 Hz, 1H), 2.80 (br s, 6H). Analysis calculated for C18H15ClFN3O: C, 62.89; H, 4.40; N, 12.22. Found: C, 62.75; H, 4.28; N, 12.29.

reactant | 3-(2-chloro-phenyl)-6-fluoro-2-methyl-3,4-dihydro-quinazolin-4-one | 3.46 mmol, 1.0 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C | C15H10ClFN2O
reactant | dimethylformamide dimethyl acetal | 6.92 mmol, 0.92 mL | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(2-chloro-phenyl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one | 1.075 g, 90% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=CN(C)C | C18H15ClFN3O
